* File: nand.pex.netlist.pex
* Created: Thu May 16 21:02:25 2024
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND%A 9 13 17
c0 17 0 0.0630718f
c1 15 0 0.0516543f
c2 13 0 0.19495f
c3 9 0 0.0987632f
c4 2 0 0.121282f
r5 11 15 8.88172
r6 11 13 63
r7 7 15 8.88172
r8 7 9 25.5
r9 4 17 13.2552
r10 2 15 1.73
r11 2 4 3.87458
.ends

.subckt PM_NAND%GND 2 13 23
c0 23 0 0.0484171f
c1 18 0 0.00208513f
c2 16 0 0.0792702f
r3 21 23 0.385
r4 16 18 0.239217
r5 15 16 16.3327
r6 13 15 4.572
r7 10 23 16.3327
r8 5 18 0.0195555
r9 5 21 0.0195555
r10 4 5 16.3327
r11 2 10 13.2128
r12 2 4 13.1936
.ends

.subckt PM_NAND%OUT 5 6 7 11
c0 14 0 0.0799046f
c1 10 0 0.345868f
c2 3 0 0.0492819f
r3 13 14 16.3327
r4 11 13 4.59
r5 9 10 8.16635
r6 7 9 2.295
r7 6 9 2.295
r8 3 10 0.613565
r9 3 5 0.0195555
r10 2 14 0.175
r11 2 5 0.0195555
.ends

.subckt PM_NAND%B 4 8 18
c0 18 0 0.0583466f
c1 15 0 0.0515169f
c2 12 0 0.132344f
c3 8 0 0.19683f
c4 4 0 0.10224f
r5 12 18 13.2552
r6 10 15 1.71475
r7 10 12 5
r8 6 15 8.83797
r9 6 8 63.75
r10 2 15 8.83797
r11 2 4 25
.ends

.subckt PM_NAND%VDD 4 5 10 34
c0 27 0 0.00107254f
c1 25 0 0.00107258f
c2 13 0 0.0955581f
c3 8 0 0.0955706f
c4 2 0 0.0156805f
r5 27 34 0.115652
r6 23 27 0.0195555
r7 22 23 16.3327
r8 17 25 0.0195555
r9 16 17 16.3327
r10 13 34 0.259913
r11 12 13 8.16635
r12 10 12 2.295
r13 8 25 0.375565
r14 7 8 8.16635
r15 5 7 2.286
r16 4 22 13.2128
r17 4 16 13.1936
r18 3 17 0.0195555
r19 2 23 0.0195555
r20 2 3 0.35
.ends

.subckt PM_NAND%K 1 2
c0 1 0 0.02952f
r1 1 2 9.18
.ends

