* File: nor.pex.netlist.pex
* Created: Thu May 16 22:25:55 2024
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR%D 9 13 17
c0 15 0 0.063592f
c1 13 0 0.183291f
c2 9 0 0.0992437f
c3 5 0 0.0882167f
c4 2 0 0.152655f
r5 11 15 9.92371
r6 11 13 63.25
r7 7 15 9.92371
r8 7 9 25
r9 5 17 0.0385
r10 4 5 13.2552
r11 2 15 2.06594
r12 2 4 3.55
.ends

.subckt PM_NOR%VDD 2 3 20
c0 23 0 0.00105803f
c1 16 0 0.0269745f
c2 6 0 0.0736634f
r3 18 20 0.220652
r4 16 20 0.164348
r5 15 16 16.3327
r6 10 23 0.0195555
r7 10 18 0.0195555
r8 9 10 16.3327
r9 6 23 0.375565
r10 5 6 8.16635
r11 3 5 2.286
r12 2 15 13.1936
r13 2 9 13.2128
.ends

.subckt PM_NOR%C 4 8 18
c0 18 0 0.113708f
c1 14 0 0.0627537f
c2 10 0 0.155727f
c3 8 0 0.195364f
c4 4 0 0.0973642f
r5 13 18 0.038
r6 12 13 13.2552
r7 10 14 2.04366
r8 10 12 3.23239
r9 6 14 9.84947
r10 6 8 64.5
r11 2 14 9.84947
r12 2 4 24.25
.ends

.subckt PM_NOR%OUT 7 8 13 14
c0 17 0 0.283757f
c1 11 0 0.0743288f
c2 5 0 0.0341519f
c3 3 0 0.0222379f
c4 2 0 0.0546857f
r5 16 17 16.3327
r6 14 16 4.608
r7 13 16 4.572
r8 10 11 8.16635
r9 8 10 2.295
r10 5 11 0.184435
r11 5 7 0.0195555
r12 4 17 0.441
r13 3 4 0.039111
r14 2 7 0.0195555
r15 2 3 0.14
.ends

.subckt PM_NOR%GND 4 15 20 30
c0 30 0 0.0811762f
c1 28 0 0.00216215f
c2 25 0 0.00211872f
c3 18 0 0.0800994f
c4 2 0 0.0281382f
r5 28 30 0.0471739
r6 23 30 0.182913
r7 22 23 16.3327
r8 20 22 4.59
r9 18 25 0.230087
r10 17 18 16.3327
r11 15 17 4.572
r12 13 28 0.0195555
r13 12 13 16.3327
r14 7 25 0.0195555
r15 6 7 16.3327
r16 4 12 13.1936
r17 4 6 13.2128
r18 3 7 0.0195555
r19 2 13 0.0195555
r20 2 3 0.35
.ends

.subckt PM_NOR%K 1 2
r0 1 2 4.59
.ends

